US05618808
D. S-(o-Nitrophenyl)-N-carbobenzyloxy-D-cysteine
A solution of 11.60 g (48 mmol) of S-(o-nitrophenyl)-D-cysteine in 36 mL of 4N sodium hydroxide (NaOH) was cooled to 0° C. To this solution was added dropwise 6.85 mL (48 mmol) of carbobenzyloxychloride, and the mixture was stirred at room temperature for 2.5 hours. The pH was maintained at 10.8 with the addition of 4N NaOH as needed. The solution was then extracted with ether and the pH adjusted to 1.0 with 12N HCl. The resulting precipitate was dissolved in CH2Cl2, dried with Na2SO4 and evaporated to yield 17.0 g of product as a yellow gum. This material was used as is in the next reaction.

reactant | S-(o-nitrophenyl)-D-cysteine | 48 mmol, 11.60 g | [N+](=O)([O-])C1=C(C=CC=C1)SC[C@@H](N)C(=O)O | C9H10N2O4S
reactant | carbobenzyloxychloride | 48 mmol, 6.85 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | sodium hydroxide | 4N, 36 mL | [OH-].[Na+]
solvent | NaOH | 4N | [OH-].[Na+]
product | S-(o-Nitrophenyl)-N-carbobenzyloxy-D-cysteine | 17.0 g | [N+](=O)([O-])C1=C(C=CC=C1)SC[C@@H](NC(=O)OCC1=CC=CC=C1)C(=O)O | C17H16N2O6S
